US06706749B2
1-(3-Trifluoromethylphenyl)-3-(2-carboxyphenyl)-2-imidazolidone
To a solution of N-(3-trifluoromethylphenyl)-N′-(2-ethyloxycarbonylphenyl)-1,2-diaminoethane (1.1 g, 3.1 mmol) and triethylamine (1.1. mL, 7.5 mmol) in toluene was added phosgene in toluene (1.84 mL, 3.5 mmol). After stirring at room temperature for 30 min. Water and diethyl ether were added. The organic phase was dried and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel using dichloromethane as eluent. The isolated ester (0.96 g) was hydrolysed in 4N aqueous sodium hydroxide to give the desired compound in a yield of 0.6 g. M.p. 197-198° C.

reactant | N-(3-trifluoromethylphenyl)-N′-(2-ethyloxycarbonylphenyl)-1,2-diaminoethane | 3.1 mmol, 1.1 g | FC(C=1C=C(C=CC1)NCCNC1=C(C=CC=C1)C(=O)OCC)(F)F | C18H19F3N2O2
reactant | triethylamine | 7.5 mmol | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.5 mmol, 1.84 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3-Trifluoromethylphenyl)-3-(2-carboxyphenyl)-2-imidazolidone | FC(C=1C=C(C=CC1)N1C(N(CC1)C1=C(C=CC=C1)C(=O)O)=O)(F)F | C17H13F3N2O3
